US05356918
N-(2-Nitrooxyethyl)-2-oxo-5-(3-pyridyl)thiazolidine-4-carboxamide (Compound No. 1-16)
A procedure similar to that described in Example 1 was repeated, but using 300 mg of N-(2-nitrooxyethyl)amine nitrate and 330 mg of 2-oxo-5-(3-pyridyl)thiazolidine-4-carboxylic acid, to obtain 140 mg of the title compound as colorless crystals, melting at 139°-140° C. (after recrystallization from ethanol).

reactant | N-(2-nitrooxyethyl)amine nitrate | 300 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | 2-oxo-5-(3-pyridyl)thiazolidine-4-carboxylic acid | 330 mg | O=C1SC(C(N1)C(=O)O)C=1C=NC=CC1 | C9H8N2O3S
product | N-(2-Nitrooxyethyl)-2-oxo-5-(3-pyridyl)thiazolidine-4-carboxamide | [N+](=O)([O-])OCCNC(=O)C1NC(SC1C=1C=NC=CC1)=O | C11H12N4O5S
